US05952511
(+)-1-(2-Hydroxyiminoethyl)-3-(4-methylphenyl)aminocarbonylmethyl-3-(N'-(4-methylphenyl)ureido)indolin-2-one
In 1 ml of methanol was dissolved 0.050 g of (+)-1-formylmethyl-3-(4-methylphenyl)aminocarbonylmethyl-3-(N'-(4-methylphenyl)ureido)indolin-2-one, and a solution of 0.021 g of hydroxylamine hydrochloride and 0.021 g of sodium acetate in 1 ml of water was added thereto. The resulting mixture was stirred at room temperature for 1 hour and concentrated. Water was added to the residue, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogencarbonate, dried over anhydrous sodium sulfate, and concentrated. The residue was purified by silica gel column chromatography (dichloromethane/ethyl acetate=1/1) to give 0.045 g of the title compound.

reactant | (+)-1-formylmethyl-3-(4-methylphenyl)aminocarbonylmethyl-3-(N'-(4-methylphenyl)ureido)indolin-2-one | 0.050 g | C(=O)CN1C(C(C2=CC=CC=C12)(NC(=O)NC1=CC=C(C=C1)C)CC(=O)NC1=CC=C(C=C1)C)=O | C27H26N4O4
reactant | hydroxylamine hydrochloride | 0.021 g | Cl.NO
reactant | sodium acetate | 0.021 g | C(C)(=O)[O-].[Na+]
solvent | methanol | 1 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
product | (+)-1-(2-Hydroxyiminoethyl)-3-(4-methylphenyl)aminocarbonylmethyl-3-(N'-(4-methylphenyl)ureido)indolin-2-one | 0.045 g | ON=CCN1C(C(C2=CC=CC=C12)(NC(=O)NC1=CC=C(C=C1)C)CC(=O)NC1=CC=C(C=C1)C)=O | C27H27N5O4
